US06835513B2
N-tridecyl-3, 6-diformyl carbazole was prepared from DMF (186 ml, 2.4 mol), POCl3 (224 ml, 2.4 mol), and N-tridecylcarbazole (120 g, 0.34 mol) according to the procedure described for N-heptyl-3,6-Diformylcarbazole. The product was recrystallized from THF/water to yield 130 g (84% yield) of purified product.

reactant | DMF | 2.4 mol, 186 ml | CN(C)C=O | C3H7NO
reactant | POCl3 | 2.4 mol, 224 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-tridecylcarbazole | 0.34 mol, 120 g | C(CCCCCCCCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C25H35N
reactant | N-heptyl-3,6-Diformylcarbazole | C(CCCCCC)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)C=O | C21H23NO2
product | N-tridecyl-3, 6-diformyl carbazole | C(CCCCCCCCCCCC)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)C=O | C27H35NO2
